US04518713
1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride
To a suspension prepared from 3.00 g (39.5 mmol) of 50% lithium aluminum hydride in oil and 100 ml of dry THF and maintained at 0° was added dropwise a solution of 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(3-chlorophenoxy)piperidine oxalate in 100 ml of dry THF. The mixture was heated at reflux under nitrogen for 12 hours, allowed to cool to room temperature and subsequently cooled in an ice bath. To the mixture was added slowly, dropwise 3 ml of water followed by 3 ml of 15% sodium hydroxide and 9 ml of water. The suspension was filtered and washed with 150 ml of THF, and the THF was evaporated. The residue was extracted with ether, washed with saturated sodium chloride and dried over potassium carbonate. The yield of the dihydrochloride was 9.36 g (79%). Crystallization from ethanol provided analytically pure material.

reactant | lithium aluminum hydride | 39.5 mmol, 3.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(3-chlorophenoxy)piperidine oxalate | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=CC(=CC=C1)Cl
reactant | water | 3 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 9 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylamino}ethyl}-4-(3-chlorophenoxy)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC(=CC=C1)Cl | InChI=1S/C26H34ClFN2O3.2ClH/c1-29(13-3-12-26(31-18-19-32-26)21-6-8-23(28)9-7-21)16-17-30-14-10-24(11-15-30)33-25-5-2-4-22(27)20-25;;/h2,4-9,20,24H,3,10-19H2,1H3;2*1H
